US05216156
2,2-Bis{4-[[2-[(5-carboxypentyl)amino]-4-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl]oxy]phenyl}propane
The title compound is prepared from the reaction of 2,2-bis{4-[[2-chloro-4-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl]oxy]phenyl}propane with 6-aminohexanoic acid.

reactant | 2,2-bis{4-[[2-chloro-4-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl]oxy]phenyl}propane | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C59H88Cl2N10O4
reactant | 6-aminohexanoic acid | NCCCCCC(=O)O | C6H13NO2
product | 2,2-Bis{4-[[2-[(5-carboxypentyl)amino]-4-[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-6-yl]oxy]phenyl}propane | C(=O)(O)CCCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC1=NC(=NC(=N1)NCCCCCC(=O)O)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C71H112N12O8
